US04291034
To 2.3 g of 7-chloro-3,4-dihydro-10-hydroxy-3-[4-(trifluoromethyl)phenyl]-1,9(2H,10H)-acridinedione in 55 ml of ethanol is added 0.70 g of N,N-dimethyl-1,3-propanediamine in 5 ml of ethanol. The solution is heated to reflux and then allowed to cool to room temperature. The solvent is removed in vacuo and the residue is recrystallized from a mixture of benzene and cyclohexane to give 7-chloro-1-[[3-(dimethylamino)propyl]imino]-1,3,4,10-tetrahydro-10-hydroxy-3-[4-(trifluoromethyl)phenyl]9(2H)-acridinone; mp 130°-135° C.

reactant | 7-chloro-3,4-dihydro-10-hydroxy-3-[4-(trifluoromethyl)phenyl]-1,9(2H,10H)-acridinedione | 2.3 g | ClC1=CC=C2N(C=3CC(CC(C3C(C2=C1)=O)=O)C1=CC=C(C=C1)C(F)(F)F)O | C20H13ClF3NO3
reactant | N,N-dimethyl-1,3-propanediamine | 0.70 g | CN(CCCN)C | C5H14N2
solvent | ethanol | 55 ml | C(C)O | C2H6O
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 7-chloro-1-[[3-(dimethylamino)propyl]imino]-1,3,4,10-tetrahydro-10-hydroxy-3-[4-(trifluoromethyl)phenyl]9(2H)-acridinone | ClC1=CC=C2N(C=3CC(CC(C3C(C2=C1)=O)=NCCCN(C)C)C1=CC=C(C=C1)C(F)(F)F)O | C25H25ClF3N3O2
